US05013749
(4R,6S,E)-6-[2-[4,5-Bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-ethenyl]-4-hydroxy-tetrahydro-2H-pyran-2-one
A solution of 1,1-dimethyleth-1-yl (3R,5S,E)-7-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3,5-dihydroxy-6-heptenoate (25.6 mg) in redistilled THF (1.4 ml) was treated with aqueous sodium hydroxide solution (0.1M, 0.5 ml) and the clear colourless solution was stirred at room temperature. After 3.5 h the reaction mixture was concentrated to ca 0.5 ml. The residue was diluted with water (3 ml), acidified to pH 4 with hydrochloric acid (2M), ammonium sulphate added and then extracted with ethyl acetate (4×3 ml). The combined extracts were dried and evaporated to a white gummy solid (25 mg). This was dissolved in dry dichloromethane (1.4 ml) and then treated with 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho-p-toluenesulphonate (42.4 mg). The resulting solution was stirred at room temperature. After 18.5 h the reaction mixture was diluted with water (5 ml) and then extracted with dichloromethane (3×5 ml). The combined extracts were washed with brine (5 ml), dried and evaporated to a cream solid (23 mg). The solid was filtered through a short column of 70-230 mesh silica developing and eluting with System A (3:1) to give the title compound as a cream solid (18 mg), νmax (CHBr3) 1735 cm-1 (lactone), δ(CDCl3) values as for those described for the racemate obtained in Example 10.

reactant | 1,1-dimethyleth-1-yl (3R,5S,E)-7-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3,5-dihydroxy-6-heptenoate | 25.6 mg | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/[C@H](C[C@H](CC(=O)OC(C)(C)C)O)O)C(C)C | C29H34F2N2O4
reactant | sodium hydroxide | 0.1M, 0.5 ml | [OH-].[Na+]
solvent | THF | 1.4 ml | C1CCOC1 | C4H8O
product | (4R,6S,E)-6-[2-[4,5-Bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-ethenyl]-4-hydroxy-tetrahydro-2H-pyran-2-one | 18 mg | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/[C@@H]1C[C@H](CC(O1)=O)O)C(C)C | C25H24F2N2O3
